US05294631
(i) 2-n-butyl-1H-benzimidazole-1-acetic acid
2-n-Butyl benzimidazole (3.00 g, 17.22 mmol) was mixed with powdered potassium carbonate (2.62 g, 19 mmol) and diluted with 25 mL dimethylformamide. To this was added ethyl bromoacetate (18.94 mmol). The reaction mixture was stirred at ambient temperature overnight and poured into 150 mL of water. The resulting crystals were filtered, and recrystallized from hexane to give 2.26 g (50%) of a solid; mp 70°-71° C.

reactant | 2-n-Butyl benzimidazole | 17.22 mmol, 3.00 g | C(CCC)C=1NC2=C(N1)C=CC=C2 | C11H14N2
reactant | potassium carbonate | 19 mmol, 2.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 18.94 mmol | BrCC(=O)OCC | C4H7BrO2
reactant | water | 150 mL | O | H2O
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 2-n-butyl-1H-benzimidazole-1-acetic acid | 2.26 g, 50% | C(CCC)C1=NC2=C(N1CC(=O)O)C=CC=C2 | C13H16N2O2
